US06235731B1
4) Synthesis of N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethyl]-3,4-dihydro-5-thia-1,8b-diazaacenaphthylene-4-carboxamide
To a solution of 746.4 mg (1.91 mM) of N-(4-piperidyl)methyl-3,4-dihydro-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride and 1.4 ml (10.0 mM) of triethylamine in ethanol (5 ml) was added 0.35 ml (2.30 mM) of 1-bromo-3-phenylpropane at room temperature and the mixture was refluxed under nitrogen for 64 hours. This reaction mixture was diluted with water and extracted with chloroform, and the organic layer was washed with saturated aqueous solution of sodium chloride and dried over MgSO4. The residue was purified by column chromatography (methanol/ethyl acetate 20-30-50%) to provide the title compound as red amorphous substance.

reactant | N-(4-piperidyl)methyl-3,4-dihydro-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | 1.91 mM, 746.4 mg | Cl.Cl.N1CCC(CC1)CNC(=O)C1CC2=CN=C3C=CC=C(S1)N32
reactant | triethylamine | 10.0 mM, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-3-phenylpropane | 2.30 mM, 0.35 ml | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethyl]-3,4-dihydro-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | C1(=CC=CC=C1)CCCN1CCC(CC1)CNC(=O)C1CC2=CN=C3C=CC=C(S1)N32 | C25H30N4OS
